US20010047031A1
Tris(dibenzylideneacetone)dipalladium chloroform complex (14 mg, 13.5 □mol) and 1,1′-bis(diphenylphosphino)ferrocene (30 mg, 54.1 □mol) in degassed and dry toluene (2 ml) were stirred at room temperature until the solution turned orange (15 minutes). 6-Bromo-3-trityl-3H-benzooxazol-2-one (0.2 g, 0.44 mmol), Cs2CO3 (0.22 g, 0.68 mmol) and (RS)-3-mercapto-pyrrolidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.49 mmol) in toluene (0.5 ml) were successively added. After 4 hours stirring at 100° C., the reaction mixture was cooled to room temperature and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 9:1 then 1:1) to provide (RS)-3-(2-oxo-3-trityl-2,3-dihydro-benzooxazol-6-yl-sulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.19 g. 77%) as a white foam, MS: m/e=596.1 (M+NH4+).

reactant | 6-Bromo-3-trityl-3H-benzooxazol-2-one | 0.44 mmol, 0.2 g | BrC1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C26H18BrNO2
reactant | Cs2CO3 | 0.68 mmol, 0.22 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (RS)-3-mercapto-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.49 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CC(CC1)S | C9H17NO2S
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-3-(2-oxo-3-trityl-2,3-dihydro-benzooxazol-6-yl-sulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.19 g, 77% | C(C)(C)(C)OC(=O)N1CC(CC1)SC1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C35H34N2O4S
